US07572811B2
1-Bromo-4-methoxy-2-methyl-benzene (520 mg, 2.6 mmol) is dissolved in cyclohexylzinc bromide THF solution (0.5 M, 15 mL) in a microwave tube. Pd(t-Bu3P)2 (66 mg, 0.13 mmol, 0.05 eq.) is added to this solution. The mixture is purged with N2 (g) for 5 minutes and heated at 100° C. for 30 minutes using microwave irradiation. Upon completion, the reaction mixture is diluted with EtOAc, washed with 1 N HCl (aq), brine, filtered through celite, and dried over Na2SO4. After concentration, the residue is partially purified by silica gel chromatography (5% EtOAc in hexanes) to give crude 1-cyclohexyl-4-methoxy-2-methyl-benzene.

reactant | 1-Bromo-4-methoxy-2-methyl-benzene | 2.6 mmol, 520 mg | BrC1=C(C=C(C=C1)OC)C | C8H9BrO
catalyst | Pd(t-Bu3P)2 | 0.13 mmol, 66 mg, 0.05 eq. | CC(C)(C)P(C(C)(C)C)C(C)(C)C.CC(C)(C)P(C(C)(C)C)C(C)(C)C.[Pd]
product | 1-cyclohexyl-4-methoxy-2-methyl-benzene | C1(CCCCC1)C1=C(C=C(C=C1)OC)C | C14H20O
